US05767116
A mixture of 2,3-dihydrobenzo[b]furan-7-ylamine (6.8 g prepared in a similar manner to that described in Tetrahedron Letters 1982,23,147), 4-carbamoyl-1-(2,4-dinitrophenyl)pyridinium chloride (14.7 g prepared in a similar manner to that described in Example 2) and methanol (400 ml) was stirred under reflux for 5 hours then allowed to stand at ambient temperature and heated for 16 hours. The solvent was removed in vacuo, and the residue was triturated with hot acetone, cooled and filtered to give 1-(2,3-dihydrobenzo[b]furan-7-yl)-4-carbamoylpyridinium chloride as a yellow solid (11.5 g), m.p. 289°-290° C.

reactant | 2,3-dihydrobenzo[b]furan-7-ylamine | O1C2=C(CC1)C=CC=C2N | C8H9NO
reactant | 4-carbamoyl-1-(2,4-dinitrophenyl)pyridinium chloride | [Cl-].C(N)(=O)C1=CC=[N+](C=C1)C1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-]
solvent | methanol | 400 ml | CO | CH4O
product | 1-(2,3-dihydrobenzo[b]furan-7-yl)-4-carbamoylpyridinium chloride | 11.5 g | [Cl-].O1C2=C(CC1)C=CC=C2[N+]2=CC=C(C=C2)C(N)=O | InChI=1S/C14H12N2O2.ClH/c15-14(17)11-4-7-16(8-5-11)12-3-1-2-10-6-9-18-13(10)12;/h1-5,7-8H,6,9H2,(H-,15,17);1H
